US03951993
Boiling a solution of 7.1 g of 4-chlorobenzaldehyde and 15.9 g of 3-amino-3-ethoxyacrylic acid ethyl ester in 50 ml of alcohol for 8 hours yields 2-amino-4-(4-chlorophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 130°-132°C (ethyl acetate/petroleum ether).

reactant | 4-chlorobenzaldehyde | 7.1 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 3-amino-3-ethoxyacrylic acid ethyl ester | 15.9 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
product | 2-amino-4-(4-chlorophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(N=C(C(C1C1=CC=C(C=C1)Cl)C(=O)OCC)OCC)N | C19H23ClN2O5
